US05969140
A suspension of 1-(2-chloro-4-pyridyl)-3-hydroxymethyl-6,7-diethoxynaphthalene (3.90 g) in hydrazine hydrate (17.8 ml) is refluxed for 9 hours. The mixture is stirred at room temperature for 10 minutes, and further stirred under ice-cooling for 10 minutes. To the mixture are added methylene chloride and water, and the methylene chloride layer is separated, washed, dried, and concentrated under reduced pressure to remove the solvent. The residue is dissolved in hot ethanol (20 ml), and allowed to cool overnight to give 1-(2-hydrazino-4-pyridyl)-3-hydroxymethyl-6,7-diethoxynaphthalene (3.19 g).

reactant | 1-(2-chloro-4-pyridyl)-3-hydroxymethyl-6,7-diethoxynaphthalene | 3.90 g | ClC1=NC=CC(=C1)C1=CC(=CC2=CC(=C(C=C12)OCC)OCC)CO | C20H20ClNO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
reactant | hydrazine hydrate | 17.8 ml | O.NN
product | 1-(2-hydrazino-4-pyridyl)-3-hydroxymethyl-6,7-diethoxynaphthalene | 3.19 g | N(N)C1=NC=CC(=C1)C1=CC(=CC2=CC(=C(C=C12)OCC)OCC)CO | C20H23N3O3
